US08030318B2
Using the methods descried in Example 2, the protected amine compound, 4-[7-[Bis-(4-methoxy-benzyl)-amino]-2-(5-chloro-2-fluorophenyl)-pyrido[2,3-d]pyrimidin-4-ylamino]-N-methyl-nicotinamide, was prepared. The two methoxybenzyl protecting groups were then removed as follows. A suspension of 4-[7-[Bis-(4-methoxy-benzyl)-amino]-2-(5-chloro-2-fluoro-phenyl)-pyrido[2,3-d]pyrimidin-4-ylamino]-N-methyl-nicotinamide (1.96 g; 3.14 mmol) in neat trifluoroacetic acid (30 mL) was heated to 40° C. for 30 h. The reaction mixture was evaporated to dryness and purified by silica gel chromatography (dichloromethane/EtOAc gradient 95/5 to 5/95) to afford 4-[7-Amino-2-(5-chloro-2-fluoro-phenyl)-pyrido[2,3-d]pyrimidin-4-ylamino]-N-methyl-nicotinamide (0.78 g).

reactant | 4-[7-[Bis-(4-methoxy-benzyl)-amino]-2-(5-chloro-2-fluorophenyl)-pyrido[2,3-d]pyrimidin-4-ylamino]-N-methyl-nicotinamide | COC1=CC=C(CN(C=2C=CC3=C(N=C(N=C3NC3=CC=NC=C3C(=O)NC)C3=C(C=CC(=C3)Cl)F)N2)CC2=CC=C(C=C2)OC)C=C1 | C36H31ClFN7O3
reactant | 4-[7-[Bis-(4-methoxy-benzyl)-amino]-2-(5-chloro-2-fluoro-phenyl)-pyrido[2,3-d]pyrimidin-4-ylamino]-N-methyl-nicotinamide | 3.14 mmol, 1.96 g | COC1=CC=C(CN(C=2C=CC3=C(N=C(N=C3NC3=CC=NC=C3C(=O)NC)C3=C(C=CC(=C3)Cl)F)N2)CC2=CC=C(C=C2)OC)C=C1 | C36H31ClFN7O3
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[7-Amino-2-(5-chloro-2-fluoro-phenyl)-pyrido[2,3-d]pyrimidin-4-ylamino]-N-methyl-nicotinamide | 0.78 g | NC=1C=CC2=C(N=C(N=C2NC2=CC=NC=C2C(=O)NC)C2=C(C=CC(=C2)Cl)F)N1 | C20H15ClFN7O
